US09370522B2
A mixture of 4-acetamido-2-hydroxy-5-nitrobenzoic acid (5 g, 20.8 mmol, 1.00 equiv) and HCl (aq.) (110 mL, 6N) in a 500-mL round-bottom flask was allowed to react, with stifling, for 2 hrs while the temperature was maintained at reflux. The mixture was cooled. The solids were collected by filtration, yielding 3.4 g (82%) of 4-amino-2-hydroxy-5-nitrobenzoic acid as a brown solid.

reactant | 4-acetamido-2-hydroxy-5-nitrobenzoic acid | 20.8 mmol, 5 g, 1.00 equiv | C(C)(=O)NC1=CC(=C(C(=O)O)C=C1[N+](=O)[O-])O | C9H8N2O6
solvent | HCl | 6N, 110 mL | Cl | ClH
product | 4-amino-2-hydroxy-5-nitrobenzoic acid | 3.4 g, 82% | NC1=CC(=C(C(=O)O)C=C1[N+](=O)[O-])O | C7H6N2O5
